US04954446
A solution of N,N-diisopropyl-estr-1,3,5(10)-triene-3-ol-17β-carboxamide (380 mg, 1 mmol) in 10 mL dioxane is treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (250 mg, 1.1 mmol) for two hours. The reaction mixture is diluted with ethyl acetate, washed with saturated aqueous NaHCO3, dried, and concentrated. Chromatography of the residue yields N,N-diisopropyl estr-1,3,5(10),9(11)-tetraene-3-ol-17β-carboxamide.

reactant | N,N-diisopropyl-estr-1,3,5(10)-triene-3-ol-17β-carboxamide | 1 mmol, 380 mg | C(C)(C)N(C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)C(C)C | C25H37NO2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.1 mmol, 250 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-diisopropyl estr-1,3,5(10),9(11)-tetraene-3-ol-17β-carboxamide | C(C)(C)N(C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3C1=CC2)O)C(C)C | C25H35NO2
